US04075336
4 g (0.013 mole) of dithiosalicylic acid amide was dissolved in dioxane. To the resulting mixture was added 2.4 g (0.037 mole) of zinc. 40 ml of 2N-hydrochloric acid was then added dropwise with stirring. The resulting mixture was heated on a water bath for 6 hours. After the completion of the reaction, the mixture was cooled and extracted with ethyl acetate. The extract was washed with 10% potassium bicarbonate and then with a saturated sodium chloride solution. The solvent was evaporated under reduced pressure to obtain oily thiosalicylic acid amide. Since this compound showed a tendency toward oxidation to the dimer, it was submitted to the next reaction step without purification and crystallization.

reactant | dithiosalicylic acid amide | 0.013 mole, 4 g | C(C=1C(S)=CC=CC1)(=O)N.C(C=1C(S)=CC=CC1)(=O)N | 2C7H7NOS
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | zinc | 0.037 mole, 2.4 g | [Zn] | Zn
product | thiosalicylic acid amide | C(C=1C(S)=CC=CC1)(=O)N | C7H7NOS
